US03971773
B. 21 -Chloro-11β,17-dihydroxy-16α-(2-hydroxyethoxy)-pregna-1,4-diene-3,20-dione
A solution of 21-chloro-11β,17-dihydroxy-16α-[2-(tetrahydropyran-2-yloxy)ethoxy]pregna-1,4-diene-3,20-dione (8.4 mmoles) in 50 ml of acetic acid and 50 ml of water is stirred at room temperature for 6 hours, diluted with cold water, and the resulting solid filtered and dried in vacuo to yield the title compound.

reactant | 21-chloro-11β,17-dihydroxy-16α-[2-(tetrahydropyran-2-yloxy)ethoxy]pregna-1,4-diene-3,20-dione | 8.4 mmoles | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCCOC1OCCCC1)O)=O | C28H39ClO7
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 21 -Chloro-11β,17-dihydroxy-16α-(2-hydroxyethoxy)-pregna-1,4-diene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCCO)O)=O | C23H31ClO6
